US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 4-trifluoromethylaniline gave 2-chloro-5-fluoro-N4-(4-trifluoromethylphenyl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.15 (d, 2.1 Hz), 7.80 (d, 2H, J=7.1 Hz), 7.66 (d, 2H, J=9 Hz), 7.10 (bs, 1H); 19F NMR (CDCl3): −17682 and −44362; LCMS: purity: 91% and MS (m/z): 292 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | 2-chloro-5-fluoro-N4-(4-trifluoromethylphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)C(F)(F)F)F | C11H6ClF4N3
